*
* Circuit simulator for t1
*
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents

* Paramiters
.param Kb = 7.26294962318;
.param Kc = 8.23798173787;

* supply voltage
Va a 0 5.02770960543 

* Resistances
R1 a b 1.02055434268k
R2 b c 2.00415325659c3
R3 b d 3.09219210964k
R4 0 d 4.13741259708k
R5 d e 3.11995097026k
R6 0 f 2.00264223494K
R7 f g 1.02137871871K

* Voltage Sources
.param kcic = {Kc*i(R6)};
Vc d g kcic

* Current Sources
.param kbvb = {Kb*v(R3)};
Ib c e kbvb
Id e h 1.03462284298m
 

*Control commads
.control
op
print v(a,0) v(d,g) v(e,h) V(c,e) v(a,b) v(b,c) v(b,d) v(0,d) v(d,e) v(0,f) v(f,g)
print i(Va) i(Vc)
.endc
